US06635655B1
4-(Quinolin-2-ylamino)-butan-1-ol
2-Chloroquinoline (3.26 g, 20 mmol) and 4-amino-1-butanol are dissolved in anhyd. DMSO (10 mL) and heated to 140° C. for 4 hrs. The reaction is cooled to r.t., poured into water (250 mL) and extracted with ethyl acetate (3×100 mL). The organic fractions are pooled and washed with brine (3×150 mL), dried over MgSO4, filtered and reduced under vacuum to dryness. The crude material is purified by flash chromatography (silica, 7% methanol in dichloromethane) to give the title compound. MS (ESI) 217 (M+H)+.

reactant | 2-Chloroquinoline | 20 mmol, 3.26 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | 4-amino-1-butanol | NCCCCO | C4H11NO
reactant | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 250 mL | O | H2O
product | 4-(Quinolin-2-ylamino)-butan-1-ol | N1=C(C=CC2=CC=CC=C12)NCCCCO | C13H16N2O
